US05705144
cis-7-hexadecene dioic acid;
cis-5-tetradecene dioic acid; cis-7-tetradecene dioic acid; cis-3-dodecene dioic acid; cis-5-dodecene dioic acid; cis-3-decene dioic acid; cis-5-decene dioic acid and cis-3-octene dioic acid.

reactant | cis-5-tetradecene dioic acid | C(CCC\C=C/CCCCCCCC(=O)O)(=O)O | C14H24O4
reactant | cis-7-tetradecene dioic acid | C(CCCCC\C=C/CCCCCC(=O)O)(=O)O | C14H24O4
reactant | cis-3-dodecene dioic acid | C(C\C=C/CCCCCCCC(=O)O)(=O)O | C12H20O4
reactant | cis-5-dodecene dioic acid | C(CCC\C=C/CCCCCC(=O)O)(=O)O | C12H20O4
reactant | cis-3-decene dioic acid | C(C\C=C/CCCCCC(=O)O)(=O)O | C10H16O4
reactant | cis-5-decene dioic acid | C(CCC\C=C/CCCC(=O)O)(=O)O | C10H16O4
reactant | cis-3-octene dioic acid | C(C\C=C/CCCC(=O)O)(=O)O | C8H12O4
product | cis-7-hexadecene dioic acid | C(CCCCC\C=C/CCCCCCCC(=O)O)(=O)O | C16H28O4
